US07230099B2
Step B: Preparation of 1-Aminooxy-3,3-dimethyl-butan-2-ol.
To a solution of 2-(2-hydroxy-3,3-dimethyl-butoxy)-isoindole-1,3-dione (1.47 g, 5.60 mmol) in dichloromethane (20 mL) cooled to 0° C. was added methylhydrazine (0.31 mL, 5.90 mmol). The white suspension was allowed to stir for 16 hours at room temperature. Diethyl ether (50 mL) was added and the solids were removed by filtration. The filtrate was concentrated, diluted with diethyl ether and the solids were removed by filtration. This procedure was repeated twice more and the final filtrate was concentrated to provide the desired product as a yellow liquid (0.643 g, 86%). 1H NMR (400 MHz, CDCl3) δ 4.87 (br s, 2H), 3.85 (q, 1H), 3.58 (q, 2H), 0.93 (s, 9H).

reactant | 2-(2-hydroxy-3,3-dimethyl-butoxy)-isoindole-1,3-dione | 5.60 mmol, 1.47 g | OC(CON1C(C2=CC=CC=C2C1=O)=O)C(C)(C)C | C14H17NO4
reactant | methylhydrazine | 5.90 mmol, 0.31 mL | CNN | CH6N2
reactant | Diethyl ether | 50 mL | C(C)OCC | C4H10O
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 1-Aminooxy-3,3-dimethyl-butan-2-ol | 0.643 g, 86% | NOCC(C(C)(C)C)O | C6H15NO2
